US09260400B2
4-[2-(4-Methoxyphenyl)phenyl]-N-(4-pyridinylmethyl)-1-piperazinehexanamide
The title compound was prepared starting from 6-bromo-N-(4-pyridylmethyl)hexa namide and 1-[2-(4-methoxyphenyl)phenyl]piperazine following the procedure outlined for Example 21. 1H NMR (CDCl3): δ 1.34-1.43 (m, 2H), 1.53-1.63 (m, 2H), 1.67-1.77 (m, 2H), 2.28 (t, 2H, J=7.4 Hz), 2.42 (app. t, 2H), 2.66 (br s, 4H), 3.10 (br s, 4H),3.81 (s, 3H), 4.45 (d, 2H, J=6.1 Hz), 6.10 (br t, 1H, D2O exchanged), 6.94 (d, 2H, J=8.8 Hz), 7.00 (d, 1H, J=8.0 Hz), 7.09-7.16 (m, 3H), 7.22-7.30 (m, 2H), 7.46 (d, 2H, J=8.8 Hz), 8.55 (dd, 2H, J=1.4, 4.4 Hz). GC-MS m/z 473 (M+1, 1), 472 (M+, 5), 379 (15), 282 (82), 226 (100), 210 (43).

reactant | 6-bromo-N-(4-pyridylmethyl)hexa namide | BrCCCCCC(=O)NCC1=CC=NC=C1 | C12H17BrN2O
reactant | 1-[2-(4-methoxyphenyl)phenyl]piperazine | COC1=CC=C(C=C1)C1=C(C=CC=C1)N1CCNCC1 | C17H20N2O
product | 4-[2-(4-Methoxyphenyl)phenyl]-N-(4-pyridinylmethyl)-1-piperazinehexanamide | COC1=CC=C(C=C1)C1=C(C=CC=C1)N1CCN(CC1)CCCCCC(=O)NCC1=CC=NC=C1 | C29H36N4O2
